US07960369B2
methyl 4-[[3-((E)-2-phenylethenyl) phenyl]methoxy]benzenepropanoate
Methyl 4-[(3-bromophenyl)methoxy]benzenepropanoate (1.0 g, 2.9 mmol), styrene (0.45 g, 4.3 mmol), sodium hydrogencarbonate (0.60 g, 7.2 mmol), tetrabutylammonium chloride (1.6 g, 5.7 mmol) were dissolved in N,N-dimethylformamide (25 mL) and, after argon substitution, palladium acetate (19 mg, 0.086 mmol) was added. The reaction mixture was heated under an argon atmosphere at 100° C. for 18 hrs. The reaction mixture was cooled, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=15:1) to give the title compound (0.63 g, yield 59%) as a white powder.

reactant | Methyl 4-[(3-bromophenyl)methoxy]benzenepropanoate | 2.9 mmol, 1.0 g | BrC=1C=C(C=CC1)COC1=CC=C(C=C1)CCC(=O)OC | C17H17BrO3
reactant | styrene | 4.3 mmol, 0.45 g | C=CC1=CC=CC=C1 | C8H8
reactant | sodium hydrogencarbonate | 7.2 mmol, 0.60 g | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
catalyst | tetrabutylammonium chloride | 5.7 mmol, 1.6 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.086 mmol, 19 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-[[3-((E)-2-phenylethenyl) phenyl]methoxy]benzenepropanoate | 0.63 g, yield 59% | C1(=CC=CC=C1)/C=C/C=1C=C(C=CC1)COC1=CC=C(C=C1)CCC(=O)OC | C25H24O3
